US05821246
n-Butyl lithium (1.6M in hexane, 7.4 ml) was added to a solution of oxazole (0.78 ml) in THF (100 ml) which had been cooled to -70° C. The mixture was stirred at that temperature for 1 hour. A solution of 2-chloro-4-nitrobenzaldehyde (2 g) in THF (5 ml) was added and the mixture was stirred at -70° C. for 3 hours. A saturated aqueous ammonium chloride solution was added and the mixture was extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated to give 1-(2-chloro-4-nitrophenyl)-1-(2-oxazolyl)methanol (1.45 g), m.p. 158°-160° C.

reactant | n-Butyl lithium | 1.6M, 7.4 ml | C(CCC)[Li]
reactant | oxazole | 0.78 ml | O1C=NC=C1 | C3H3NO
reactant | 2-chloro-4-nitrobenzaldehyde | 2 g | ClC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2-chloro-4-nitrophenyl)-1-(2-oxazolyl)methanol | 1.45 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(O)C=1OC=CN1 | C10H7ClN2O4
